US05541198
To 200 ml of benzene were added 22 g of 2-nitroaniline and 6.6 ml of thiophosgene. The mixture was refluxed for 2 hours. After cooling, the resulting crystals were removed by filtration and the filtrate was concentrated. The resulting residue was purified by a silica gel column chromatography (eluant: ethyl acetate/n-hexane=0/1→1/10) to obtain 8.0 g of 2-nitrophenyl isothiocyanate.

reactant | 2-nitroaniline | 22 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | thiophosgene | 6.6 ml | C(=S)(Cl)Cl | CCl2S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-nitrophenyl isothiocyanate | 8.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=S | C7H4N2O2S
